US04087539
To a solution of 300 mg. of 5-(2-thenoyl)-1,2-dihydro-3H-pyrrolo[1,2-a]pyrrole-1-carboxylic acid in 5 ml. of methanol is added 1 molar equivalent of sodium hydroxide, in the form of a 0.1N solution. The solvent is then evaporated under reduced pressure and the residue taken up in 2 ml. of methanol, followed by precipitation with ether, to yield crude sodium 5-(2-thenoyl)-1,2-dihydro-3H-pyrrolo[1,2-a]pyrrole-1-carboxylate which can be crystallized from isopropanol.

reactant | 5-(2-thenoyl)-1,2-dihydro-3H-pyrrolo[1,2-a]pyrrole-1-carboxylic acid | C1(=CC=CS1)C(=O)C1=CC=C2N1CCC2C(=O)O | C13H11NO3S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | sodium 5-(2-thenoyl)-1,2-dihydro-3H-pyrrolo[1,2-a]pyrrole-1-carboxylate | C1(=CC=CS1)C(=O)C1=CC=C2N1CCC2C(=O)[O-].[Na+] | InChI=1S/C13H11NO3S.Na/c15-12(11-2-1-7-18-11)10-4-3-9-8(13(16)17)5-6-14(9)10;/h1-4,7-8H,5-6H2,(H,16,17);/q;+1/p-1
